US05663168
d) 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-(p-methoxyphenylmethyl)-hexanoic acid
Analogously to Example 1i), 0.93 g (2.10 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(p-methoxy-phenylmethyl)-hexanoic acid in 20 ml of DMF is silylated with 1.4 g (9.64 mmol) of tert-butyldimethylchlorosilane and 1.17 g (17.2 mmol) of imidazole. The silyl ester function is hydrolysed with 1.7 g of potassium carbonate in methanol (23 ml)/THF (7 ml)/water (7 ml) and the crude product is stirred in hexane to give the title compound; tRet (I)=20.6 min; FAB-MS (M+H)+ =558.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(p-methoxy-phenylmethyl)-hexanoic acid | 2.10 mmol, 0.93 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OC)O)CC1=CC=CC=C1 | C25H33NO6
reactant | tert-butyldimethylchlorosilane | 9.64 mmol, 1.4 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 17.2 mmol, 1.17 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | methanol | 23 ml | CO | CH4O
solvent | hexane | CCCCCC | C6H14
solvent | water | 7 ml | O | H2O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-(p-methoxyphenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OC)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C31H47NO6Si
